US08809538B2
N′-(2-(benzyloxy)acetyl)picolinohydrazide
Picolinohydrazide (4.55 g) was dissolved in dichloromethane (40 mL) and 2-(benzyloxy)acetyl chloride (6.06 mL) was added slowly with cooling. Triethylamine (5.98 mL) was added slowly with a strong exotherm. Additional dichloromethane (45 mL) was added to aid stirring. The reaction was allowed to stir overnight. The reaction was partitioned between ethyl acetate and sodium hydrogen carbonate aqueous solution. The organic phase was washed with brine, dried and purified by column chromatography using an eluant of 10% ethyl acetate/dichloromethane to provide the title compound (4.1 g) having the following physical data.

reactant | Picolinohydrazide | 4.55 g | N1=C(C=CC=C1)C(=O)NN | C6H7N3O
reactant | 2-(benzyloxy)acetyl chloride | 6.06 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | Triethylamine | 5.98 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | N′-(2-(benzyloxy)acetyl)picolinohydrazide | 4.1 g | C(C1=CC=CC=C1)OCC(=O)NNC(C1=NC=CC=C1)=O | C15H15N3O3
